US05374646
Ethyl 4-methyl-2-propyl-1H-imidazole-5-carboxylate
Ethyl 2-amino-3-oxobutanoate hydrochloride (10 g) was added to a stirring solution of ethyl butaneimidate (83.5 g) in ethanol (800 ml, freshly distilled from magnesium ethoxide) and triethylamine (85 ml) and the resultant yellow mixture stirred at room temperature for 48 h. The solvent was removed in vacuo and the residue diluted with water (500 ml) and extracted into ethyl acetate (3×200 ml). The combined organic extracts were washed with water (2×100 ml), dried and concentrated in vacuo. The resultant residue was purified by trituration with ether (5×50 ml) and the residual buff solid dried to afford the title compound (4.05 g)

reactant | Ethyl 2-amino-3-oxobutanoate hydrochloride | 10 g | Cl.NC(C(=O)OCC)C(C)=O
reactant | ethyl butaneimidate | 83.5 g | C(CCC)(OCC)=N | C6H13NO
solvent | ethanol | C(C)O | C2H6O
product | Ethyl 4-methyl-2-propyl-1H-imidazole-5-carboxylate | 4.05 g | CC=1N=C(NC1C(=O)OCC)CCC | C10H16N2O2
